US06579874B2
2-(4-Fluorophenyl)-1-(2-[1-(S)-phenyl-ethyl]amino-4-pyrimidyl) 4-(4-pyridyl)imidazole
4-Bromo-2-(4-fluorophenyl)-1-(2-[1-(S)-phenylethyl]amino-4-pyrimidyl)imidazole (1.0 g; 2.28 mmol), 4-trimethylstannylpyridine (660 mg; 2.74 mmol) and PdCl2(PPh3)2 (160 mg; 0.228 mmol) are dissolved in xylenes (23 ml) and refluxed for 4 h. The reaction mixture is poured on saturated Na2CO3 solution and extracted with ethyl acetate three times. The combined organic phases were dried over Na2SO4, filtered, evaporated to dryness and purified via SiO2 chromatography (TBME/MeOH/NH3conc 99/9/0.1) to yield the title compound as a yellow foam (780 mg; 68%).

reactant | 4-Bromo-2-(4-fluorophenyl)-1-(2-[1-(S)-phenylethyl]amino-4-pyrimidyl)imidazole | 2.28 mmol, 1.0 g | BrC=1N=C(N(C1)C1=NC(=NC=C1)N[C@@H](C)C1=CC=CC=C1)C1=CC=C(C=C1)F | C21H17BrFN5
reactant | 4-trimethylstannylpyridine | 2.74 mmol, 660 mg | C[Sn](C1=CC=NC=C1)(C)C
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | PdCl2(PPh3)2 | 0.228 mmol, 160 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-(4-Fluorophenyl)-1-(2-[1-(S)-phenyl-ethyl]amino-4-pyrimidyl) 4-(4-pyridyl)imidazole | 780 mg, 68% | FC1=CC=C(C=C1)C=1N(C=C(N1)C1=CC=NC=C1)C1=NC(=NC=C1)N[C@@H](C)C1=CC=CC=C1 | C26H21FN6
